US07465815B2
To a solution of 2,3-dimethylphenol (25.0 g, 205 mmol) in dimethylsulfoxide (200 mL) were added ethyl 2-bromo-isobutyrate (60 mL, 409 mmol) and potassium carbonate (56.5 g, 409 mmol) at room temperature, and the mixture was stirred for 36 hours. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain crude oily ethyl 2-(2,3-dimethylphenoxy)-2-methylpropionate. 12 N Aqueous sodium hydroxide solution (20 mL, 240 mmol) was added to the mixed solution of this compound in THF (160 mL) and methanol (40 mL) at room temperature, stirred for 12 hours, and then concentrated under reduced pressure. Water and hydrochloric acid were added to the reaction solution to acidity the aqueous layer, which was extracted with ethyl acetate. The organic layer was washed with water and a saturated brine and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was crystallized from ethyl acetate-hexane to obtain 21.3 g (yield 50%) of the title compound. Melting point: 71-73° C.

reactant | 2,3-dimethylphenol | 205 mmol, 25.0 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | ethyl 2-bromo-isobutyrate | 409 mmol, 60 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 409 mmol, 56.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 200 mL | CS(=O)C | C2H6OS
product | ethyl 2-(2,3-dimethylphenoxy)-2-methylpropionate | CC1=C(OC(C(=O)OCC)(C)C)C=CC=C1C | C14H20O3
